US04215123
1,2-dihydro-4-hydroxy-7-methyl-2-oxo-1-propyl-1,8-naphthyridine-3-carboxylic acid ethyl ester
To a solution of 30.7 g. (0.015 mole) of methyl-2-propylaminonicotinic acid methyl ester in 250 ml. of anhydrous diethyl ether was added 11.25 g. (0.0075 mole) of ethyl malonyl chloride. The mixture was stirred at room temperature for 2 hours. The mixture was filtered and the filtrate was evaporated in a rotary evaporator. The residue was dissolved in 20 ml. of ethanol and this solution was added to a solution of 3.4 g. (0.015 g. atom) of sodium in 200 ml. of ethanol. After stirring at room temperature for 5 minutes, the mixture was diluted with water and was acidified with concentrated hydrochloric acid. The precipitate which formed was collected, air dried and was recrystallized from heptane to afford 3.4 g. of the title compound, m.p. 128°-30° C.

reactant | methyl-2-propylaminonicotinic acid methyl ester | 0.015 mole | COC(C1=C(N=C(C=C1)C)NCCC)=O | C11H16N2O2
reactant | ethyl malonyl chloride | 0.0075 mole | C(C)C(C(=O)Cl)C(=O)Cl | C5H6Cl2O2
reactant | diethyl ether | C(C)OCC | C4H10O
product | 1,2-dihydro-4-hydroxy-7-methyl-2-oxo-1-propyl-1,8-naphthyridine-3-carboxylic acid ethyl ester | C(C)OC(=O)C=1C(N(C2=NC(=CC=C2C1O)C)CCC)=O | C15H18N2O4
